US07576104B2
N-[2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-3-methyl-benzamide I-56
To a suspension of 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione (0.55 g; 2 mmol) in THF (30 ml) was added m-toluoyl chloride (0.53 ml, 4 mmol). The mixture was heated to reflux for 18 hours. The reaction was cooled to room temperature, methanol (2 ml) was added, and the mixture stirred for 1 hour. The solvent was evaporated in vacuo leaving a solid that was slurried in diethyl ether (20 ml), filtered, reslurried in ethyl acetate (20 ml), and filtered to give 0.69 g (88%) of product as an off-white solid: mp 234-236° C.; 1H NMR (DMSO-d6) d 10.97 (s, 1H), 10.31 (s, 1H), 8.64 (d, J=8.4 Hz, 1H), 7.92-7.47 (m, 6H), 5.16 (dd, J=5.5 and 12.7 Hz, 1H), 2.97-2.84 (m, 1H), 2.68-2.43 (m, 5H), 2.14-2.09 (m, 1H); 13C NMR (DMSO-d6) d 172.13, 169.15, 168.03, 166.30, 164.80, 138.18, 136.54, 135.95, 133.14, 132.87, 131.09, 128.57, 127.45, 126.64, 123.95, 118.23, 117.33, 48.88, 30.67, 21.76, 20.62; Anal. Calcd. For C21H17N3O5: C, 64.45; H, 4.38; N, 10.74. Found: C, 64.23; H, 4.18; N, 10.56.

reactant | 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione | 2 mmol, 0.55 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C13H11N3O4
reactant | m-toluoyl chloride | 4 mmol, 0.53 ml | C1(=CC(=CC=C1)C(=O)Cl)C | C8H7ClO
reactant | methanol | 2 ml | CO | CH4O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | N-[2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-3-methyl-benzamide | 0.69 g, 88% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NC(C1=CC(=CC=C1)C)=O)=O)=O | C21H17N3O5
